US04942173
A solution on dimethyl sulphoxide (12 ml) in dry dichloromethane (4.0 ml.) was added to a solution of oxalyl chloride (7.4 ml) in dichloromethane (25 ml) stirred at -70° under nitrogen. After the addition was complete the resulting mixture was stirred for a further 5 minutes at -70° before a solution of 3-hydroxymethyl-3-n-propyloxetane (10.0 g) in dichloromethane (25 ml) was added, dropwise, over 10 minutes. The resulting mixture was allowed to stir for a further 30 minutes when neat triethylamine (54 ml) was added over approximately 30 minutes. The reaction mixture was allowed to warm to room temperature over 3 hours when it was poured into water. The organic phase was separated and the aqueous layer further extracted with fresh dichloromethane. The combined organic extracts were washed with dilute hydrochloric acid, saturated sodium bicarbonate and brine. The resulting organic phase was dried over anhydrous magnesium sulphate and evaporated in vacuo to give 3-formyl-3-n-propyloxetane (10.5 g) as a yellow oil.

reactant | oxalyl chloride | 7.4 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-hydroxymethyl-3-n-propyloxetane | 10.0 g | OCC1(COC1)CCC | C7H14O2
reactant | triethylamine | 54 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dichloromethane | 4.0 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 3-formyl-3-n-propyloxetane | 10.5 g | C(=O)C1(COC1)CCC | C7H12O2
